US05459137
1-(4-Diacetylaminophenyl)-3-acetyl-4-methylene-7,8-methylenedioxy-4,5-dihydro-3H-2,3-benzodiazepine
2.93 g (0.01 mol) of 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine were refluxed with 20 ml of acetic anhydride for 6 hours. The solution was evaporated at reduced pressure, the residue was taken up in 2×20 ml of anhydrous ethanol, the solution was repeatedly evaporated and the resulting residue of 4.55 g was submitted to column chromatography (adsorbent: Kieselgel 60, eluant: ethyl acetate--benzene 4:1). The raw product was triturated with 20 ml of hot isopropanol to yield 1.44 g (34.4%) of the aimed product, m.p. 240°-245 ° C. (slight decomp.).

reactant | 1-(4-aminophenyl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | 0.01 mol, 2.93 g | NC1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C | C17H15N3O2
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-(4-Diacetylaminophenyl)-3-acetyl-4-methylene-7,8-methylenedioxy-4,5-dihydro-3H-2,3-benzodiazepine | 1.44 g, 34.4% | C(C)(=O)N(C1=CC=C(C=C1)C1=NN(C(CC2=C1C=C1C(=C2)OCO1)=C)C(C)=O)C(C)=O | C23H21N3O5
